US06465664B1
3-Butylcyclohexenone
The general procedure for the preparation of substrates using 3-methoxycyclohexenone (1.26 g, 10 mmol) and n-BuLi (20 mmol, 1.6 M in hexane) gave, after flash chromatography (4:1 hexanes:ethyl acetate) the title compound as a colorless liquid (1.48 g, 97%). Spectroscopic data were consistent with previously reported data for this compound.2

reactant | 3-methoxycyclohexenone | 10 mmol, 1.26 g | COC1=CC(CCC1)=O | C7H10O2
reactant | n-BuLi | 20 mmol, 1.6 M | [Li]CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Butylcyclohexenone | 1.48 g, 97% | C(CCC)C1=CC(CCC1)=O | C10H16O
